US06911458B2
N-Methyl-2-oxiranylmethoxy-benzamide
To a solution of 2-Hydroxy-N-methyl-benzamide (0.5 g, 3.31 mmol prepared according to Cohen, Seth M et al J. Am. Chem. Soc., (1998), 120(25), 6277-6286.) and cesium carbonate (2.16 g, 6.62 mmol) in acetonitrile was added epibromohydrin (0.274 ml, 3.31 mmol). The mixture was heated at 50° C. for 2 hours and then after cooling to room temperature partitioned between water(50 ml) and dichloromethane (100 ml). The dichloromethane was dried and evaporated. Chromatography (EtOAc) gave 0.43 g (64%) of the product as a solid.

reactant | 2-Hydroxy-N-methyl-benzamide | 3.31 mmol, 0.5 g | OC1=C(C(=O)NC)C=CC=C1 | C8H9NO2
reactant | cesium carbonate | 6.62 mmol, 2.16 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | epibromohydrin | 3.31 mmol, 0.274 ml | C(Br)C1CO1 | C3H5BrO
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Methyl-2-oxiranylmethoxy-benzamide | 0.43 g, 64% | CNC(C1=C(C=CC=C1)OCC1OC1)=O | C11H13NO3
